US06057315
2-Chloro-6,8-dihydroxy-9-oxo-7-propyl-9H-pyrrolo[2,1-b][1,3]benzoxazine-1-carboxamide
To 100 mg (0.34 mmol) of 2-chloro-6,8-dihydroxy-7-propyl-9H-pyrrolo [2,1-b][1,3]benzoxazin-9-one in 10 mL of toluene and 15 mL of CH2Cl2 was added 0.03 mL (0.34 mmol) of chlorosulfonylisocyanate at 0° C. After 15 min., the mixture was warmed to RT, stirred for 30 min., and then 2 mL of water was added. After 30 min, the solids were filtered, washed with ether and dried in vacuo to give 60 mg of the title compound: mp 250° C. dec.

reactant | 2-chloro-6,8-dihydroxy-7-propyl-9H-pyrrolo [2,1-b][1,3]benzoxazin-9-one | 0.34 mmol, 100 mg | ClC=1C=C2OC3=C(C(N2C1)=O)C(=C(C(=C3)O)CCC)O | C14H12ClNO4
reactant | chlorosulfonylisocyanate | 0.34 mmol, 0.03 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 2 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6,8-dihydroxy-9-oxo-7-propyl-9H-pyrrolo[2,1-b][1,3]benzoxazine-1-carboxamide | 60 mg | ClC=1C=C2OC3=C(C(N2C1C(=O)N)=O)C(=C(C(=C3)O)CCC)O | C15H13ClN2O5
